US08247436B2
Step 3: Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinate
Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-hydroxy-5-(trifluoromethyl)picolinate (62 mg, 0.168 mmol) in 1,4-dioxane (1.5 ml) (dry) was treated with EtOH (0.020 ml, 0.335 mmol) and triphenylphosphine (88 mg, 0.335 mmol) and the solution stirred. DEAD (0.053 ml, 0.335 mmol) was added dropwise and the reaction mixture stirred at room temperature for 2 hours. The solvent was removed in vacuo and purification of the crude product by chromatography on silica eluting with iso-hexane: EtOAc (gradient of 0 to 10% EtOAc) afforded the title compound;

reactant | Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-hydroxy-5-(trifluoromethyl)picolinate | 0.168 mmol, 62 mg | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)O)C(=O)OC | C14H13F3N2O3
reactant | EtOH | 0.335 mmol, 0.020 ml | CCO | C2H6O
reactant | triphenylphosphine | 0.335 mmol, 88 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.335 mmol, 0.053 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | Methyl 3-(2,5-dimethyl-1H-pyrrol-1-yl)-6-ethoxy-5-(trifluoromethyl)picolinate | CC=1N(C(=CC1)C)C=1C(=NC(=C(C1)C(F)(F)F)OCC)C(=O)OC | C16H17F3N2O3
